US04709050
3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-phenylpyrrolidine-2,5-dione
This compound is prepared by the procedure of Example 1 from 2.40 g (0.1 mol) of sodium hydride, 20.63 g (0.1 mol) of 2,6-di-tert-butylphenol, and 17.32 g (0.1 mol) of N-phenylmaleimide in tetrahydrofuran. The reaction mixture is concentrated in vacuo and the residue is dissolved in 150 ml of toluene. The toluene solution is extracted sequentially with 1M sodium hydroxide (2×100 ml) and water (2×50 ml). The organic phase is dried over anhydrous sodium sulfate and then the solvent is removed in vacuo. The residue is triturated with petroleum ether to give 0.78 g (2%) of white crystals: mp 204° C.

reactant | sodium hydride | 0.1 mol, 2.40 g | [H-].[Na+]
reactant | 2,6-di-tert-butylphenol | 0.1 mol, 20.63 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | N-phenylmaleimide | 0.1 mol, 17.32 g | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-phenylpyrrolidine-2,5-dione | 0.78 g, 2% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(N(C(C1)=O)C1=CC=CC=C1)=O | C24H29NO3
